US05795986
4-(t-Butylamino)-2,6-di-1-pyrrolidinylpyrimidine (X)
A mixture of 21.7 g of t-butylamine in 100 mL of tetrahydrofuran is cooled to about -40° and treated over about 15 min with 170 mL of 1.6M n-butyllithium in hexane. The mixture is warmed to 0° for 2 hr, then recooled to -40° and treated over 30 min with a mixture of 25 g of 4-chloro-2, 6-di-1-pyrrolidinylpyrimidine and 50 mL of tetrahydrofuran. The mixture is allowed to warm to 20°-25° and is stirred for 16-18 hr. Water (50 mL) is then added and the mixture is concentrated under reduced pressure. The residue is partitioned between methylene chloride and aqueous 10% sodium bicarbonate. The organic phase is washed with saline, dried over anhydrous sodium sulfate and concentrated. Chromatography (silica gel, 5% ethyl acetate/hexane) gives the title compound, NMR (CDCl3) 4.78, 4.25, 3.53-3.49, 3.40, 1.93-1.86 and 1.41 6.

reactant | t-butylamine | 21.7 g | C(C)(C)(C)N | C4H11N
reactant | n-butyllithium | 1.6M, 170 mL | C(CCC)[Li]
reactant | 4-chloro-2, 6-di-1-pyrrolidinylpyrimidine | 25 g | ClC1=NC(=NC(=C1)N1CCCC1)N1CCCC1 | C12H17ClN4
reactant | Water | 50 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(t-Butylamino)-2,6-di-1-pyrrolidinylpyrimidine | C(C)(C)(C)NC1=NC(=NC(=C1)N1CCCC1)N1CCCC1 | C16H27N5
